US05902813
2-Nitro-4-(2,5-dimethylpyrrol- 1-yl)fluorobenzene (1 b):
Prepared analogously from 4-fluoro- 3-nitroaniline and 2,5-hexanedione. Yield: 98%. Mp 99-101° C.

reactant | 4-fluoro- 3-nitroaniline | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | 2,5-hexanedione | CC(CCC(C)=O)=O | C6H10O2
product | 2-Nitro-4-(2,5-dimethylpyrrol- 1-yl)fluorobenzene | Yield: 98% | [N+](=O)([O-])C1=C(C=CC(=C1)N1C(=CC=C1C)C)F | C12H11FN2O2
